US09382188B2
step 2) 2-(4,4-dimethylpentyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol
A solution (8.7 mL) of 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-4,4-dimethylpentan-1-ol (394 mg) and 10% palladium-carbon (168 mg) in methanol was stirred under a hydrogen balloon atmosphere at room temperature for 9 hr. The reaction mixture was filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (256 mg) as a colorless oil.

reactant | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-4,4-dimethylpentan-1-ol | 8.7 mL, 394 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CCC(C)(C)C)O | C28H33FO4
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 168 mg | [C].[Pd]
product | 2-(4,4-dimethylpentyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 256 mg | CC(CCCC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F)(C)C | C20H25FO2
